### PR TITLE
fix: `wp_pures` drops Rocq's `;[]` guard and `wp_finish` fallback

### PR DESCRIPTION
**Pull request by kdvkrs**
## Description

`wp_pures` was `repeat wp_pure`, missing both halves of Rocq's
`first [progress repeat (wp_pure _; []) | wp_finish]`:

- **`;[]`**: our `wp_pure` uses `failOnUnsolved := false`, so an undischarged side
  condition (or a TC-spawned goal) just becomes an extra goal, and `repeat` takes the step
  anyway. A step now has to leave exactly one goal, otherwise `wp_pures` stops at that
  redex.
- **`wp_finish`** — when nothing fires, `repeat wp_pure` succeeded vacuously. Rocq still
  simplifies the expression and strips the WP off a value.

I opted for implementing this as a guard around the existing elaborator (`wp_pure_step`) that is called by `wp_pures`. 

### Behaviour changes

No existing tests regressed. 

1. `wp_pures` can now fail on a non-WP goal, like in Iris Rocq
2. For heap tactics, the `wp_pures` prologue in `runTacticHeapWp` can reduce the expression to a value,
   leaving no WP. Rocq hits the same branch. Now reported as ``Tactic `wp_load` failed: the
   expression has been reduced to a value, there is no redex left`` rather than complaining
   about a goal the user never saw.

Related to #480 

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

## Generative AI Guidelines
AI assistance is permitted when making contributions to Iris-Lean, however, generative AI systems tend to produce code which takes a long time to review. 
Please carefully review your code to ensure it meets the following standards.

- Your PR should avoid duplicating constructions found in Iris-Lean or in the Lean standard library.
- `have` statements that do not aid readability or code reuse should be inlined. 
- Your proofs should be shortened such that their overall structure is explicable to a human reader. As a goal, aim to express one idea per line.
- In general, proofs should not perform substantially more case splitting than their Rocq counterparts.

In our experience, a good place to begin refactoring is by re-arranging and combining independent tactic invocations. 
We also find that pointing generative AI systems to the Mathlib code style guidelines can help them perform some of this refactoring work.

### CODE REVIEW

File: Iris/Iris/Tests/HeapLang/WeakestPre.lean [hunk 1]
```diff
@@ -219,6 +219,92 @@ example (n : Int) : ⊢@{IProp GF} WP hl((#1 * #2 <<< #3 ≤ #n + (#1 &&& #2 ^^^
...
+  ⊢ WP hl(!#l) {{ v, True }}
+-/
+#guard_msgs in
+example (l : Loc) : ⊢@{IProp GF} WP hl(!#l) {{ v, True }} := by
+  wp_pures
+
+-- neither branch applies when the goal is not a weakest precondition
+/-- error: wp_finish: The goal iprop(True) must be a WP -/
+#guard_msgs in
+example : ⊢@{IProp GF} (True : IProp GF) := by
```
Comment (MackieLoeffel) [inline Iris/Iris/Tests/HeapLang/WeakestPre.lean]:
```suggestion
example : ⊢@{IProp GF} True:= by
```

File: Iris/Iris/HeapLang/ProofMode.lean [hunk 2]
```diff
@@ -373,7 +373,26 @@ elab "wp_pure " colGt ppSpace focus:hl_exp:10 : tactic =>
...
 
 macro "wp_pure" : tactic => `(tactic| wp_pure _)
-macro "wp_pures" : tactic => `(tactic| repeat wp_pure)
+
+/-- A single `wp_pure` step that must leave exactly one goal, Rocq's `wp_pure _; []`. Fails
+if the step spawns a goal besides the continuation, such as an undischarged side condition
+of the reduction. -/
+elab "wp_pure_step" : tactic => focus do
+  evalTactic (← `(tactic| wp_pure))
+  let goals ← getUnsolvedGoals
```
Comment (MackieLoeffel) [inline Iris/Iris/HeapLang/ProofMode.lean:383]: I don't think this is right. There might be more than 1 unsolved goals if `wp_pure_step` is called when there is more than 1 goal to begin with.

Comment (kdvkrs) [reply Iris/Iris/HeapLang/ProofMode.lean:383]: The tactic runs under `focus`, so `getUnsolvedGoals` only sees the goals that were produced in this step, which should correspond to Rocq's `; []`. I've added a [testcase](https://github.com/leanprover-community/iris-lean/pull/604/changes/6ff685f9db1d836846622fb2c6540c7bd321944d#diff-e3ae95d0d458d33f445b9d5cdec6f3a28c23844fbf41b0de36bcd9d2e03ebaeaR322)

Comment (MackieLoeffel) [reply Iris/Iris/HeapLang/ProofMode.lean:383]: Ah, I missed the focus.

Comment (MackieLoeffel) [inline Iris/Iris/HeapLang/ProofMode.lean:383]:
```suggestion
  -- we run under `focus` so we only see the unsolved goals of `wp_pure` 
  let goals ← getUnsolvedGoals
```

File: Iris/Iris/Tests/HeapLang/WeakestPre.lean [hunk 3]
```diff
@@ -219,6 +219,113 @@ example (n : Int) : ⊢@{IProp GF} WP hl((#1 * #2 <<< #3 ≤ #n + (#1 &&& #2 ^^^
...
+/--
+error: unsolved goals
+hlc : HasLC
+GF : BundledGFunctors
+ι : IrisGS_gen hlc Exp GF
+v1 v2 : Val
+⊢ ⏎
+  ⊢ WP hl((v(&v1) = v(&v2))) {{ v, True }}
+-/
+#guard_msgs in
```
Comment (MackieLoeffel) [inline Iris/Iris/Tests/HeapLang/WeakestPre.lean]: Please update these tests to use trace_state as done in https://github.com/leanprover-community/iris-lean/pull/606

**Comment by MackieLoeffel** [comment]
Thanks! This looks good to me, merging.
